US07776910B2
Mesyl chloride (93.7 μL, 1.21 mmol) was added to a solution of [(S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester (394 mg, 1.0527 mmol) in DCM (7.5 mL) under argon atmosphere at −78° C., followed by addition of TEA (0.336 mL, 2.42 mmol). The mixture was stirred at −78° C. for 1 hour and then at room temperature for an additional hour. A solution of aqueous NaHCO3 (10%) was added, and the organic layer was separated and dried over Na2SO4. Solvent was evaporated under reduced pressure and to afford 480 mg of crude methanesulfonic acid (S)-2-(4-bromo-2-methoxy-phenyl)-4-tert-butoxycarbonylamino-butyl ester. This material was dissolved in THF (4 mL) under Ar atmosphere and cooled to 0° C. KHMDS (0.5 M in toluene, 2.32 mL, 1.158 mmol) was added, and the reaction mixture was stirred for 1 hour at room temperature. A saturated solution of NH4Cl was added, followed by brine, and the resulting mixture was extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 98/2) to give 315 mg (84% yield) of (S)-3-(4-bromo-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in 99% ee determined by chiralcel HPLC column and hexane/i-PrOH (9/1) as mobile phase.

reactant | Mesyl chloride | 1.21 mmol, 93.7 μL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | [(S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester | 1.0527 mmol, 394 mg | C(C)(C)(C)OC(NCC[C@H](CO)C1=C(C=C(C=C1)Br)OC)=O | C16H24BrNO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid (S)-2-(4-bromo-2-methoxy-phenyl)-4-tert-butoxycarbonylamino-butyl ester | 480 mg | BrC1=CC(=C(C=C1)[C@@H](COS(=O)(=O)C)CCNC(=O)OC(C)(C)C)OC | C17H26BrNO6S
